### ISSUE TITLE
failed to generate equality theorems for `match` expression `ctor_C'.match_1`

### ISSUE THREAD

**Issue by hediet** [leanprover/lean4#7513]
Hey 👋

### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

Similar issue:
* https://github.com/leanprover/lean4/issues/2237

### Description

Here is the [MRE](https://live.lean-lang.org/#project=lean-nightly&codez=M4FwTgrgxiFgpgAgMLwDZomghmAghCAPYC22I2iA7gBbwIBQiiAigFyIAqAngA5IQmiANoBLAHYA3APoATeFFGzsAIzTxpARw4ARBUtXqAoptYBdRAFpLiKKRLxxIRCBqjgiIoQYNQkGHBIAGKoGFi4BMRkFIjwAB4gjrIeoZg4+ISk5JS09PBC1mJScvrKahraiHqKZcamLBbWiAB0rdjisogQ4nYkDk4ubsAANIOOiKLOVERgANbAQqDkGthQUPC8IMAcLFYAfIgAcuQ+8gBmtsRg0sgA5Bwh6GkRmdGUbAC8QgDeQsy7n0QACEiEQ0MM/oglolpKt1psFswkYgAD4uSBIRAfA4ARgA1DjIcw0WdsGhgEhsYgAEx46lCAC+p3gF0eYXSkSyFGashxiAAFMgHqlwhkotkAJQcEFgxCA8AQfIMVzwGbwEguDgwGY3W48vkfdGKuWGlTcITdM5gzra653RaiEi8Kw2VzuRCk0Tk6iTGiIABEnvUnWIiAA5o56MtYpoIGTJtwxmqSB4rWBEAADaJQGgZ2JxXgIYDAUREcSZ2265rZmjSHEZ/2LGZgc1AA).

This code
```
structure CellularAutomata where
  Q: Type u
  [inv_decidable_q: DecidableEq Q] -- comment this out

structure FCellularAutomata extends CellularAutomata where
  --[inv_decidable_q: DecidableEq Q] -- ...and uncomment this, then it works
  state_accepts: Q -> Nat

def ctor_C': FCellularAutomata :=
  {
    Q := Bool,
    state_accepts
      | true  => 1+1
      | false => 2+2
  }

def FCellularAutomata.d1 (C: FCellularAutomata): Bool := true

theorem t: ctor_C'.d1 = true := by
  unfold ctor_C'
  simp -- this fails with "failed to generate equality theorems for `match` expression `ctor_C'.match_1`"
  sorry
```

fails with

```
lean-nightly.lean:19:34
Tactic state
1 goal
⊢ ctor_C'.d1 = true
Messages (1)
lean-nightly.lean:19:32
failed to generate equality theorems for `match` expression `ctor_C'.match_1`
_x_1 : DecidableEq Bool
_x_2 : (motive : (CellularAutomata.mk Bool).Q → Sort u_1) →
  (Unit → motive true) → (Unit → motive false) → (x : (CellularAutomata.mk Bool).Q) → motive x
motive : (CellularAutomata.mk Bool).Q → Sort u_1
h_1 : Unit → motive true
h_2 : Unit → motive false
⊢ _x_2 motive h_1 h_2 true = h_1 ()
```
[Because this example works](https://live.lean-lang.org/#project=lean-nightly&codez=M4FwTgrgxiFgpgAgMLwDZomghmAghCAPYC22I2iA7gBbwIBQiiAigFyIAqAngA5IQmiALTCA2gEsAdgDcA+gBN4UCQuwAjNPDkBHDgBFlqjVoCiO1gF0GDUJBhwkAMVQYsuAsTIVE8AB4g8FIKwCjomDj4hKTklLT08EKSsopGapraeoiGKulmFizWzKDk2thQUPC8IMAcLCIAfIgAcuQ2SgBmiDBEYHLIAOQcLuHuUV6xiGwAvEIA3kLM9TOIAEJERGgANIuIJYFy5ZXVwLvMAD6I4BBIiNNNAIwA1A9niJcd2GjASPeIAExPf5CAC+7XgXRGbkinhiFAAdAoHogABTIYauCIeaLebAASg4602U2mV0giQYIDovXgJCuHB6fUGiORpOuSBW6m4QggUg6mwU3WITIGQmAEhIvBEwiuNAkoU+Em+1AkVMQACJFVpBcREABzIL0Uq+HQQL6q7iy+A0kgK3qIAAG3igNAdvj8vAQwHFRCkjsZ/QG8OdNDkDwd6rFvTA3KAA), I assume this is a bug in how the type class is referenced.

### Versions

lean-nightly.lean:6:34

### Impact

So far I didn't find a workaround that unblocks me. But I'm only doing this for fun, so no urgency.
